US04304770
Sulfuryl chloride (35.2 g) was added all at once to the stirred solution of ethyl 2-ethoxyimino-3-oxobutyrate (syn isomer) (48.9 g) in acetic acid (49 ml) at room temperature, and stirred at the same temperature for an hour. After adding the resultant solution into water (200 ml), the solution was extracted with methylene chloride. The extract was washed with a saturated aqueous solution of sodium chloride, neutralized with an aqueous solution of sodium bicarbonate and washed with water. The solution was dried over magnesium sulfate and concentrated under reduced pressure to give ethyl 2-ethoxyimino-3-oxo-4-chlorobutyrate (syn isomer) (53.8 g), pale yellow oil.

reactant | Sulfuryl chloride | 35.2 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | ethyl 2-ethoxyimino-3-oxobutyrate | 48.9 g | C(C)ON=C(C(=O)OCC)C(C)=O | C8H13NO4
reactant | water | 200 ml | O | H2O
solvent | acetic acid | 49 ml | C(C)(=O)O | C2H4O2
product | ethyl 2-ethoxyimino-3-oxo-4-chlorobutyrate | 53.8 g | C(C)ON=C(C(=O)OCC)C(CCl)=O | C8H12ClNO4
